.subckt hm_pg_lv_17x415
M1 ctrl_n ctrl VGND VGND sg13_lv_nmos w=2.6u l=0.13u ng=1 m=1 mm_ok=1
M2 ctrl_n ctrl VPWR VPWR sg13_lv_pmos w=4.44u l=0.13u ng=1 m=1 mm_ok=1
M3 GPWR ctrl_n VPWR VPWR sg13_lv_pmos w=5492.400000000001u l=0.13u ng=796 m=2 mm_ok=1
x1 VGND GPWR ctrl_n dischg
.ends

.subckt dischg VGND GPWR gate
M1 GPWR gate net1 VGND sg13_lv_nmos w=0.50u l=0.65u ng=1 m=1 mm_ok=1
M2 net1 gate net2 VGND sg13_lv_nmos w=0.50u l=0.65u ng=1 m=1 mm_ok=1
M3 net2 gate net3 VGND sg13_lv_nmos w=0.50u l=0.65u ng=1 m=1 mm_ok=1
M4 net3 gate VGND VGND sg13_lv_nmos w=0.50u l=0.65u ng=1 m=1 mm_ok=1
M5 GPWR gate net6 VGND sg13_lv_nmos w=0.50u l=0.65u ng=1 m=1 mm_ok=1
M6 net6 gate net5 VGND sg13_lv_nmos w=0.50u l=0.65u ng=1 m=1 mm_ok=1
M7 net5 gate net4 VGND sg13_lv_nmos w=0.50u l=0.65u ng=1 m=1 mm_ok=1
M8 net4 gate VGND VGND sg13_lv_nmos w=0.50u l=0.65u ng=1 m=1 mm_ok=1
.ends

.end
